US05268389
2,3,4,5-Tetrabromo-6-[[[4-chloro-2-fluoro-5-(1-methylethoxycarbonyl)phenyl]amino]carbonyl]benzoic acid (Compound 20)
Tetrabromophthalic anhydride (6.67 g, 0.014 mole) and 1-methylethyl 5-amino-2-chloro-4-fluorobenzoate (3.33 g, 0.014 mole) were heated to reflux with stirring in about 150 ml of toluene, then left overnight at room temperature. Filtration of the reaction mixture gave the title compound, m.p. 160°-165° C. (decomp.).

reactant | Tetrabromophthalic anhydride | 0.014 mole, 6.67 g | BrC=1C(=C(C(=C2C1C(=O)OC2=O)Br)Br)Br | C8Br4O3
reactant | 1-methylethyl 5-amino-2-chloro-4-fluorobenzoate | 0.014 mole, 3.33 g | NC=1C(=CC(=C(C(=O)OC(C)C)C1)Cl)F | C10H11ClFNO2
solvent | toluene | about 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3,4,5-Tetrabromo-6-[[[4-chloro-2-fluoro-5-(1-methylethoxycarbonyl)phenyl]amino]carbonyl]benzoic acid | BrC1=C(C(=O)O)C(=C(C(=C1Br)Br)Br)C(=O)NC1=C(C=C(C(=C1)C(=O)OC(C)C)Cl)F | C18H11Br4ClFNO5
